Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Iodinated Contrast Media - IV Dye / oragel
 
Attending: ___
 
Chief Complaint:
face swelling and dental pain
 
Major Surgical or Invasive Procedure:
bedside I&D of left subperiosteal abcess by ___ on ___

 
History of Present Illness:
Ms. ___ is an ___ year old woman with PMH of atrial 
fibrillation (on warfarin) and HTN who presented to ___ 
___ with left dental and facial pain subsequently 
transferred to our ED for ___ evaluation given CT concerning 
for periapical abcess.

The patient began having pain in a left upper tooth when eating 
on ___ her son noticed that the left side of her 
face was slightly swollen. The pain persisted and the swelling 
worsened ___. On the morning of admission (___) she woke 
up and her left eye was swollen shut and the left side of her 
face was swollen and red. Patient reports that she has not been 
to the dentist in several years and that several of her fillings 
have fallen off in the last few years and were not replaced. She 
denies any fevers. She denies any changes in her vision or 
blurry vision. She denies a foreign body sensation in her eye 
and photophobia. She denies dysarthria. Denies numbness or 
weakness of her extremities.

She presented to ___ given the significant 
swelling where CT Face was concerning for periapical abcess. She 
was started on IV clindamycin at 11:20 at the outside hospital 
and transferred for ___ evaluation. 
 
In the ED here, initial vital signs were: T 98.8 P 73 BP 112/64 
RR 18 O2 sat 96%RA.  
- Exam notable for: Left premolar with caries, swelling, and 
TTP. Left facial and periorbital swelling with TTP, no 
induration.
- Labs were notable for WBC 10.8 (82% neutrophils), Hct 33.8, 
INR 2.5, chem 7 wnl.  
- Studies performed include CT Sinus/Mandible demonstrating 
odontogenic thin subperiosteal abscess. No deep neck space 
infection.
- OMFS was consulted and performed bedside I & D in the ED. 
- Patient was not given abx in the ED as she had received 
clindamycin at OSH at 11:20 this morning. 
   
Upon arrival to the floor, the patient was comfortable with 
AVSS. She reports that her pain is significantly improved and 
that the swelling has decreased from this morning and she is 
able to open her left eye.
 
Past Medical History:
Atrial Fibrillation - On Warfarin
Hypertension
Osteoarthritis - Knees, back, and shoulders most bothersome. 
 
Social History:
___
Family History:
Mother died at ___ and had some mild dementia.
Father died at ___ of unknown causes, generally healthy.
Oldest son died shortly after her husband, unclear cause.
Middle son died of multiple myeloma.
Youngest son healthy.

 
Physical Exam:
ADMISSION EXAM:
Vitals- T 98.2 BP 117/42 HR 85 RR 18 O2Sat 96%RA
GENERAL: AOx3, NAD
HEENT: Normocephalic, atraumatic.  Pupils equal, round, and 
reactive bilaterally, extraocular muscles intact. Visual fields 
full to finger counting.  No conjunctival pallor or injection, 
sclera anicteric and without injection.  Erythema and 
non-pitting edema present over the zygomatic arch and in the 
periorbital area with TTP. Moist mucous membranes, poor dention. 
Patient has multiple caries. Slightly edematous area surrounding 
left premolar. No significant erythema. No fluctuance noted.  
Oropharynx is clear.
NECK: No cervical lymphadenopathy.
CARDIAC: Irregularly irregular rhthym, normal rate, no 
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally with good aeration.  No 
wheezes, rhonchi or rales. 
BACK: No CVA tenderness. 
ABDOMEN:  Normal bowels sounds, non distended, non-tender to 
deep palpation in all four quadrants. No hepatosplenomegaly.
EXTREMITIES: No clubbing or cyanosis. 1+ pitting edema to the 
mid shin. Pulses DP/Radial 2+ bilaterally.
SKIN: No rash.
NEUROLOGIC: CN2-12 intact.  Moves all extremities actively. 

DISCHARGE EXAM: 
Vitals- T 97.8 BP 104-122/43-48 HR ___ RR 16 O2Sat 92-96%RA
GENERAL: AOx3, NAD
HEENT: NCAT.  PERRL. Visual fields full to finger counting.  No 
conjunctival pallor or injection, sclera anicteric and without 
injection. Improving erythema and non-pitting edema present over 
the zygomatic arch with minimal TTP. Erythema improved in the 
periorbital area. No pain/limitation with extraocular movements. 
Moist mucous membranes, poor dention. Patient has multiple 
caries. Slightly edematous area surrounding left premolar. On 
buccal surface of left upper pre molar there is evidence of 
incision from the I & D. No significant erythema. No fluctuance 
noted. Oropharynx is clear.
NECK: No cervical lymphadenopathy.
CARDIAC: Irregularly irregular rhthym, normal rate, no 
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally with good aeration.  No 
wheezes, rhonchi or rales. 
BACK: No CVA tenderness. 
ABDOMEN:  Normal bowels sounds, non distended, non-tender to 
deep palpation in all four quadrants. No hepatosplenomegaly.
EXTREMITIES: No clubbing or cyanosis. Trace pitting edema to the 
ankle bilaterally. Pulses DP/Radial 2+ bilaterally.
SKIN: No rash.
NEUROLOGIC: CN2-12 intact. Moves all extremities actively.  
 
Pertinent Results:
ADMISSION LABS:
---------------
___ 03:31PM BLOOD WBC-10.8* RBC-3.83* Hgb-11.3 Hct-33.8* 
MCV-88 MCH-29.5 MCHC-33.4 RDW-13.8 RDWSD-44.7 Plt ___
___ 03:31PM BLOOD Neuts-81.7* Lymphs-5.8* Monos-11.3 
Eos-0.1* Baso-0.4 Im ___ AbsNeut-8.80* AbsLymp-0.62* 
AbsMono-1.21* AbsEos-0.01* AbsBaso-0.04
___ 03:31PM BLOOD Glucose-120* UreaN-10 Creat-0.8 Na-136 
K-3.4 Cl-100 HCO3-25 AnGap-14

DISCHARGE LABS:
---------------
___ 07:00AM BLOOD WBC-7.6 RBC-3.89* Hgb-11.2 Hct-34.9 
MCV-90 MCH-28.8 MCHC-32.1 RDW-13.9 RDWSD-45.1 Plt ___
___ 07:00AM BLOOD Glucose-88 UreaN-12 Creat-0.8 Na-139 
K-3.7 Cl-101 HCO3-28 AnGap-14

IMAGING:
--------
CT Scan maxillofacial 
1. Evaluation for abscess is extremely limited due to lack of 
administration of intravenous contrast and secondary to dental 
amalgam streak artifact limits examination.
2. Extensive left facial cellulitis.
3. Periodontal disease.
 
Brief Hospital Course:
Ms. ___ is an ___ year old woman with PMH of atrial 
fibrillation (on warfarin) and HTN who presented to ___ 
___ with left dental and facial pain subsequently 
transferred to ___ ED for ___ evaluation given CT concerning 
for periapical abscess complicated by left facial cellulitis.

#Left subperiosteal abcess/facial and preseptal orbital 
cellulits: By history the patient had 3 days of left upper 
dental pain progressing to left facial pain and swelling. On 
exam she had significant left facial swelling and erythema that 
involved the periorbital area. Labs showed a mild leukocytosis 
of 10.8. CT ___ demonstrated subperiosteal 
abscess of the mandible. Patient was initiated on IV clindamycin 
(___) at the OSH and transitioned to Augmentin 875 mg PO BID 
here. ___ performed bedside I & D of abscess. After 24h of 
antibiotics, there was significant improvement in facial 
cellulitis and patient was discharged to complete augmentin 875 
mg PO BID for 7 day course ___ - ___. She was instructed to 
follow up with OMFS upon completion of antibiotics for 
reevaluation. Blood cultures were sent and are no growth to date 
but should be followed up to completion.

#Atrial fibrillation: Patient with chronic atrial fibrillation 
on warfarin and atenolol. Warfarin continued without 
modification (refer to discharge meds). INR 2.4 on ___.  

#HTN: Patient with hypertension on a home regimen of felodipine, 
ramipril, atenolol, and furosemide. Blood pressure well 
controlled at admission. 

TRANSITIONAL ISSUES
- PO augmentin 875mg BID until ___ for a total seven day 
course
- Patient needs to follow up with OMFS after discharge to 
reassess her dentition, particular the site of abscess. 
- INR at discharge = 2.4; no changes made to warfarin.
# Code Status: Full
# Emergency Contact/HCP: ___ (Son), ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Felodipine 5 mg PO DAILY 
2. Ramipril 5 mg PO DAILY 
3. Atenolol 25 mg PO DAILY 
4. Celecoxib 100 mg ORAL DAILY 
5. Simvastatin 20 mg PO QPM 
6. Furosemide 20 mg PO DAILY 
7. Warfarin 4 mg PO 3X/WEEK (___) 
8. Warfarin 2 mg PO 4X/WEEK (___) 

 
Discharge Medications:
1. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve hours Disp #*11 Tablet Refills:*0
2. Atenolol 25 mg PO DAILY 
3. Felodipine 5 mg PO DAILY 
4. Furosemide 20 mg PO DAILY 
5. Ramipril 5 mg PO DAILY 
6. Simvastatin 20 mg PO QPM 
7. Warfarin 4 mg PO 3X/WEEK (___) 
8. Warfarin 2 mg PO 4X/WEEK (___) 
9. Influenza Vaccine Quadrivalent 0.5 mL IM NOW ___. PNEUMOcoccal 23-valent polysaccharide vaccine 0.5 ml IM NOW 
X1 
11. Celecoxib 100 mg ORAL DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
primary: Left subperiosteal abcess; facial and preseptal orbital 
cellulits.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a privilege to care for you at the ___ 
___. You were admitted for treatment of a skin 
infection of your face that spread from an infected tooth. You 
were seen by our oral surgeons who drain the infected tooth and 
you were started on oral antibiotics. Your symptoms improved 
dramatically and you were cleared to go home. 

You will need to continue taking antibiotics until ___. Please 
follow up with the oral surgeons after completion of your 
antibiotics. You will need to schedule an appointment by calling 
the number listed below. 
 
Followup Instructions:
___